US07060827B2
To a solution of 2,4-dichloro-5-fluoropyrimidine (0.5 g, 3.0 mmol) and 4-n-butoxyaniline (0.49 g, 3 mmol) in acetone/H2O (1:9 mL) at room temperature was added concentrated HCl (0.1 mL). The mixture was heated at reflux for 1 h, cooled to room temperature, and made basic with 2 N NaOH (2 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. The crude black solid was purified by chromatography (4:1 hexanes/EtOAc) to afford 2-chloro-N4-(4-n-butyloxyphenyl)-5-fluoro-4-pyrimidineamine (0.71 g, 80%) as a brown oil: 1H NMR (300 MHz, CDCl3) δ 8.01 (d, J=2.7 Hz, 1H), 7.51–7.46 (m, 2H), 6.95–6.89 (m, 2H), 6.83 (bs, 1H), 3.99–3.95 (t, J=6.5 Hz, 2H), 1.82–1.57 (m, 2H), 1.53–1.43 (m, 2H), 0.98 (t, J=7.2 Hz, 3H).

reactant | 2,4-dichloro-5-fluoropyrimidine | 3.0 mmol, 0.5 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-n-butoxyaniline | 3 mmol, 0.49 g | C(CCC)OC1=CC=C(N)C=C1 | C10H15NO
reactant | HCl | 0.1 mL | Cl | ClH
reactant | NaOH | 2 N, 2 mL | [OH-].[Na+]
solvent | acetone H2O | 9 mL | CC(=O)C.O
product | 2-chloro-N4-(4-n-butyloxyphenyl)-5-fluoro-4-pyrimidineamine | 0.71 g, 80% | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCCCC)F | C14H15ClFN3O
